US09102662B2
Preparation of N-[5-(3,5-difluorobenzyl)-1H-indazol-3-yl]-5-(4-methylpiperazin-1-yl)-3-(tetrahydro-2H-pyran-4-ylamino)pyridine-2-carboxamide [(IA), R1=R2=R3=H, R=3,5-difluorophenyl, Ar=5-(4-methylpiperazin-1-yl)-3-(tetrahydro-2H-pyran-4-ylamino)pyridine] cpd. 113
A solution of N-[5-(3,5-difluorobenzyl)-1H-indazol-3-yl]-5-fluoro-3-(tetrahydro-2H-pyran-4-ylamino)pyridine-2-carboxamide (925 mg, 1.92 mmol) and N-methylpiperazine (20 mL) was stirred at 60° C. for 48 hours. The reaction mixture was then diluted with EtOAc and washed with NaHCO3 sat. sol. The organic layer was dried over sodium sulfate, filtered and evaporated. The crude was purified by flash chromatography on silica gel using DCM/EtOH/NH3 5N in MeOH 100:5:0.5 as the eluant, affording 600 mg of the title compound.

reactant | N-[5-(3,5-difluorobenzyl)-1H-indazol-3-yl]-5-fluoro-3-(tetrahydro-2H-pyran-4-ylamino)pyridine-2-carboxamide | 1.92 mmol, 925 mg | FC=1C=C(CC=2C=C3C(=NNC3=CC2)NC(=O)C2=NC=C(C=C2NC2CCOCC2)F)C=C(C1)F | C25H22F3N5O2
reactant | N-methylpiperazine | 20 mL | CN1CCNCC1 | C5H12N2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-[5-(3,5-difluorobenzyl)-1H-indazol-3-yl]-5-(4-methylpiperazin-1-yl)-3-(tetrahydro-2H-pyran-4-ylamino)pyridine-2-carboxamide | 600 mg | FC=1C=C(CC=2C=C3C(=NNC3=CC2)NC(=O)C2=NC=C(C=C2NC2CCOCC2)N2CCN(CC2)C)C=C(C1)F | C30H33F2N7O2
